US07750003B2
1-(2-Hydroxyethyl)-1-methyl-3-[4-[4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]urea
A solution of phenyl N-[4-[4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]carbamate (94 mg, 2 mmol) and triethylamine (0.09 mL, 9.2 mmol) in NMP (1 mL) was added to 2-methylaminoethanol (10 mmol). The mixture was heated at 70° C. for 2 hours and the reaction purified by prep HPLC, to give the desired compound.

reactant | phenyl N-[4-[4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]carbamate | 2 mmol, 94 mg | CS(=O)(=O)CC1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C23H24N4O5S
reactant | triethylamine | 9.2 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methylaminoethanol | 10 mmol | CNCCO | C3H9NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 1-(2-Hydroxyethyl)-1-methyl-3-[4-[4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]urea | OCCN(C(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)CS(=O)(=O)C)N1CCOCC1)C | C20H27N5O5S
